US06407101B1
A solution of oxindole (25 g, 0.19 mol) in anhydrous tetrahydrofuran (800 mL) was cooled to −20° C., then n-butyllithium (2.5M in hexanes, 152 mL, 0.38 mol) was added slowly followed by N,N,N′,N′-tetramethylethylenediamine (51 mL, 0.38 mol,). After 15 min. 1,5-diiodopentane (174 g, 0.54 mol) was added slowly and the mixture was allowed to warm to room temperature. After stirring for 16 h saturated aqueous ammonium chloride solution (1 L) and EtOAc (1 L) were added. After 15 min. the layers were separated and the aqueous phase was extracted using EtOAc (×2). The combined organic layers were extracted with hydrochloric acid (1 N), then washed with brine (500 mL), dried (MgSO4), and concentrated to obtain an oil. The oil was triturated with hexane (200 mL) and benzene (20 mL). The precipitate was collected and dried in vacuo to obtain spiro[cyclohexane-1,3′-[3H]indol]-2′-(1′H)one (26.3 g, 69.6%) as colorless crystals: mp 110-114° C.; 1H NMR (DMSO-d6) δ1.67 (m, 10H), 6.84 (d, 1H, J=8 Hz) 6.94 (t, 1H, J=8 Hz), 7.17 (t, 1H, J=8 Hz), 7.44 (d, 1H, J=8 Hz), 10.3 (s, 1H).

reactant | oxindole | 0.19 mol, 25 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | n-butyllithium | 0.38 mol, 2.5M, 152 mL | C(CCC)[Li]
reactant | N,N,N′,N′-tetramethylethylenediamine | 0.38 mol, 51 mL | CN(CCN(C)C)C | C6H16N2
reactant | 1,5-diiodopentane | 0.54 mol, 174 g | ICCCCCI | C5H10I2
reactant | ammonium chloride | 1 L | [Cl-].[NH4+]
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
solvent | EtOAc | 1 L | CCOC(=O)C | C4H8O2
product | spiro[cyclohexane-1,3′-[3H]indol]-2′-(1′H)one | 26.3 g, 69.6% | N1C(C2(C3=CC=CC=C13)CCCCC2)=O | C13H15NO
